US07906654B2
4-[4-(1-aminoethyl)-3-methylphenyl]tetrahydro-2H-thiopyran-4-carbonitrile
4-(4-Cyano-3-methylphenyl)tetrahydro-2H-thiopyran-4-carbonitrile (983 mg, 4.06 mmol) is stirred in THF (40.0 mL) at −78° C. under nitrogen as a 1.6 M solution of methyllithium in Et2O is added slowly via syringe to the vessel. The contents are stirred for 3 hours at −20° C. before being quenched with MeOH (40.0 mL) and warmed to room temperature. NaBH4 (460 mg, 12.2 mmol) is slowly added at 0° C. in an ice bath and the mixture is warmed to room temperature and stirred for 16 hours. 1.0 N aqueous HCl is added until a pH of 3.0 is reached and the solvent is removed by rotary evaporator. To the residue is added concentrated aqueous HCl (3.0 mL) and the mixture is stirred for 16 hours. The contents are neutralized with 1.0 M aqueous NaOH and EtOAc (40.0 mL) is added. The layers are separated and the organic is dried with Na2SO4 and concentrated to a residue that is purified by silica get column chromatography (10% MeOH in DCM) (253 mg, 1.05 mmol, 26%).

reactant | 4-(4-Cyano-3-methylphenyl)tetrahydro-2H-thiopyran-4-carbonitrile | 4.06 mmol, 983 mg | C(#N)C1=C(C=C(C=C1)C1(CCSCC1)C#N)C | C14H14N2S
reactant | methyllithium | C[Li]
reactant | NaBH4 | 12.2 mmol, 460 mg | [BH4-].[Na+]
reactant | HCl | 1.0 N | Cl | ClH
solvent | THF | 40.0 mL | C1CCOC1 | C4H8O
solvent | Et2O | CCOCC | C4H10O
product | 4-[4-(1-aminoethyl)-3-methylphenyl]tetrahydro-2H-thiopyran-4-carbonitrile | NC(C)C1=C(C=C(C=C1)C1(CCSCC1)C#N)C | C15H20N2S
